US05519034
1-[1-(2-Chlorophenyl)cyclopropyl]-7-methoxy-2-methyl-1,2,3,4-tetrahydroisoquinoline (0.25 g, prepared as described in Example MF7) was heated on a steam bath at 100° C. in a solution of 48% hydrobromic acid (60 ml) and glacial acetic acid (60 ml) for 16 hours. The mixture was heated under reflux for 2 hours until the reaction was complete. The solvent was removed in vacuo and the residue dried by azeotropic distillation with propan-2-ol. The resulting suspension was removed by filtration and crystallised twice from ethanol to give 1-(1-(2-chlorophenyl)cyclopropyl)-7-hydroxy-2-methyl-1,2,3,4-tetrahydroisoquinoline hydrobromide, which was characterised by elemental analysis.

reactant | 1-[1-(2-Chlorophenyl)cyclopropyl]-7-methoxy-2-methyl-1,2,3,4-tetrahydroisoquinoline | 0.25 g | ClC1=C(C=CC=C1)C1(CC1)C1N(CCC2=CC=C(C=C12)OC)C | C20H22ClNO
reactant | hydrobromic acid | 60 ml | Br | BrH
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
product | 1-(1-(2-chlorophenyl)cyclopropyl)-7-hydroxy-2-methyl-1,2,3,4-tetrahydroisoquinoline hydrobromide | Br.ClC1=C(C=CC=C1)C1(CC1)C1N(CCC2=CC=C(C=C12)O)C | InChI=1S/C19H20ClNO.BrH/c1-21-11-8-13-6-7-14(22)12-15(13)18(21)19(9-10-19)16-4-2-3-5-17(16)20;/h2-7,12,18,22H,8-11H2,1H3;1H
